US07056932B2
To a solution of 4-formyl-3-hydroxy-benzonitrile (CAS 84102-89-6) (6.90 g) in dry ethanol (165 ml) was added sodium acetate (4.23 g) and hydroxylamine hydrochloride (3.58 g). The mixture was stirred at r.t. for 1 h. The solvent was evaporated and the product was purified by flash chromatography (cyclohexane/EtOAc 8:2=>1:1) to give 3-hydroxy-4-(hydroxyimino-methyl)-benzonitrile (4.70 g). Light yellow solid. MS 162.0 ([M]+)

reactant | 4-formyl-3-hydroxy-benzonitrile | 6.90 g | C(=O)C1=C(C=C(C#N)C=C1)O | C8H5NO2
reactant | sodium acetate | 4.23 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 3.58 g | Cl.NO
solvent | ethanol | 165 ml | C(C)O | C2H6O
product | 3-hydroxy-4-(hydroxyimino-methyl)-benzonitrile | 4.70 g | OC=1C=C(C#N)C=CC1C=NO | C8H6N2O2
